US07208498B2
Step A. Ethyl 1,2-dibenzyl-3-oxopiperidine-4-carboxylate
To a solution of 3.7 mL (26.6 mmol) of diisopropylethylamine in 55 mL of dry THF at −78° C. was added dropwise n-butyllithium (25 mmol, 10.0 mL of a 2.5 M solution in hexanes). The bath was replaced with an ice-water bath. After 20 min, the mixture was recooled to −78° C. and 3.10 g (11.86 mmol) of ethyl 1-benzyl-3-oxopiperidine-4-carboxylate in a mixture of 20 mL of THF and 4.4 mL (24.4 mmol) of HMPA was added dropwise. After 2 h, 1.47 mL (12.4 mmol) of benzyl bromide was added dropwise, and the resultant mixture was allowed to warm slowly to ambient temperature overnight. The reaction was then quenched by the addition of 5 mL of saturated aqueous ammonium chloride solution. THF was removed in vacuo, and the residue was partitioned between ether and water. The organic phase was washed with 2 portions of brine and concentrated to give a red oil. Purification by Biotage chromatography (silica gel, 3% ethyl acetate/hexane) gave 1.96 g (47%) of the title compound as a light yellow mobile oil. LC-MS 352.1 (M+1).

reactant | diisopropylethylamine | 26.6 mmol, 3.7 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | n-butyllithium | C(CCC)[Li]
reactant | ethyl 1-benzyl-3-oxopiperidine-4-carboxylate | 11.86 mmol, 3.10 g | C(C1=CC=CC=C1)N1CC(C(CC1)C(=O)OCC)=O | C15H19NO3
reactant | HMPA | 24.4 mmol, 4.4 mL | CN(C)P(=O)(N(C)C)N(C)C | C6H18N3OP
reactant | benzyl bromide | 12.4 mmol, 1.47 mL | C(C1=CC=CC=C1)Br | C7H7Br
solvent | THF | 55 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | Ethyl 1,2-dibenzyl-3-oxopiperidine-4-carboxylate | 1.96 g, 47% | C(C1=CC=CC=C1)N1C(C(C(CC1)C(=O)OCC)=O)CC1=CC=CC=C1 | C22H25NO3
